US08389561B2
In a dry pressure resistant vessel of 20 ml, 1.0 g (5.20 mmole) 4-methanesulphonylcyclohexanone, 0.56 g (5.20 mmole) 3-picolylamine, 0.89 g (10.4 mmole) acetonecyanohydrin and 1.06 g (10.4 mmole) triethylamine were dissolved in 16 ml dry methanol. The vessel was closed and heated for 50 hours at 100° C. Methanol was then evaporated and the residue was redissolved in dichloromethane, washed with a saturated NaHCO3 solution, dried over MgSO4, filtered and evaporated. The residue was further purified by means of column chromatography. 7-(pyridin-3-ylmethyl)-7-aza-bicyclo[2.2.1]heptane-1-carbonitrile (structural formula below) was thus obtained in a 50% yield and characterised by proton (1H-NMR) and carbon (13C-NMR) nuclear magnetic resonance, infrared (IR) spectrophotometry and mass spectrum (MSES) as follows:

reactant | 4-methanesulphonylcyclohexanone | 5.20 mmole, 20 ml, 1.0 g | CS(=O)(=O)C1CCC(CC1)=O | C7H12O3S
reactant | 3-picolylamine | 5.20 mmole, 0.56 g | N1=CC(=CC=C1)CN | C6H8N2
reactant | acetonecyanohydrin | 10.4 mmole, 0.89 g | CC(C)(C#N)O | C4H7NO
reactant | triethylamine | 10.4 mmole, 1.06 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 16 ml | CO | CH4O
product | 7-(pyridin-3-ylmethyl)-7-aza-bicyclo[2.2.1]heptane-1-carbonitrile | 50% yield | N1=CC(=CC=C1)CN1C2(CCC1CC2)C#N | C13H15N3
